US06500863B1
N-cyclopropyl-3-amino-6-chloro-2-hydroxybenzenesulfonamide
Following the general hydrogenation procedure outlined in example 15, N-cyclopropyl-6-chloro-2-hydroxy-3-nitrobenzenesulfonamide (740 mg, 2.53 mmol) was reduced with hydrogen and 10% Pd/C (350 mg) to form the desired product (660 mg, 99%). 1H NMR (MeOD-d4): δ 6.83 (m, 2H), 2.20 (m, 1H), 0.56 (m, 4H).

reactant | N-cyclopropyl-6-chloro-2-hydroxy-3-nitrobenzenesulfonamide | 2.53 mmol, 740 mg | C1(CC1)NS(=O)(=O)C1=C(C(=CC=C1Cl)[N+](=O)[O-])O | C9H9ClN2O5S
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 350 mg | [Pd] | Pd
product | N-cyclopropyl-3-amino-6-chloro-2-hydroxybenzenesulfonamide | 660 mg, 99% | C1(CC1)NS(=O)(=O)C1=C(C(=CC=C1Cl)N)O | C9H11ClN2O3S
